US07915443B2
(S)-5-[(3-{[(1,3-dimethyl-1H-pyrazol-5-yl)carbonyl]amino}phenyl)ethynyl]-N-{[2-(methylamino)-2-oxoethyl] (oxido)phenyl--sulfanylidene}nicotinamide
In a manner similar to that described in Example 534, (S)-Ethyl[N-({5-[(3-{[(1,3-dimethyl-1H-pyrazol-5-yl)carbonyl]amino}phenyl)ethynyl]pyridin-3-yl}carbonyl)-S-phenylsulfonimidoyl]acetate and methylamine were reacted to give the title compound.

reactant | (S)-Ethyl[N-({5-[(3-{[(1,3-dimethyl-1H-pyrazol-5-yl)carbonyl]amino}phenyl)ethynyl]pyridin-3-yl}carbonyl)-S-phenylsulfonimidoyl]acetate | C(C)[C@@H](C(=O)[O-])S(=O)(=NC(=O)C=1C=NC=C(C1)C#CC1=CC(=CC=C1)NC(=O)C1=CC(=NN1C)C)C1=CC=CC=C1
reactant | methylamine | CN | CH5N
product | (S)-5-[(3-{[(1,3-dimethyl-1H-pyrazol-5-yl)carbonyl]amino}phenyl)ethynyl]-N-{[2-(methylamino)-2-oxoethyl] (oxido)phenyl--sulfanylidene}nicotinamide | CN1N=C(C=C1C(=O)NC=1C=C(C=CC1)C#CC=1C=NC=C(C(=O)N=[S@](C2=CC=CC=C2)(=O)CC(=O)NC)C1)C | C29H26N6O4S
